US06949577B2
5-n-Propyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole (72)
A solution of the imidazole from Preparation 76 (4.9 g, 44.6 mmol) in tetrahydrofuran (20 ml) was added dropwise to a solution of sodium hydride (1.96 g, 60% dispersion in mineral oil, 49.1 mmol) in tetrahydrofuran (20 ml) and, once addition was complete, the solution was stirred for an hour. The solution was cooled to 0° C. and 2-(trimethylsilyl)ethoxymethyl chloride (8.28 ml, 46.8 mmol) was added dropwise over 20 minutes. The reaction mixture was stirred at room temperature for 18 hours, then concentrated under reduced pressure. The residue was partitioned between ether and water, the layers separated, and the aqueous phase extracted with ether. The combined organic extracts were washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. The residual brown oil was purified by column chromatography on silica gel, eluting with dichloromethane:methanol (95:5), to afford the title compounds of Preparation 71 and 72 respectively in a regioisomeric mixture of 3:1, 7 g, 65% yield.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 49.1 mmol, 1.96 g | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 46.8 mmol, 8.28 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-n-Propyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole | 65% yield | C(CC)C1=CN=CN1COCC[Si](C)(C)C | C12H24N2OSi
